US05403816
Preparation of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(isothiocyanato)picolinate (Compound No. 319
0.82 g (7.15 mmol) of thiophosgene was dropwise added at room temperature to a solution of 2 g (6.5 mmol) of methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate in 70 ml of dichloromethane and 50 ml of water. The mixture was stirred at room temperature for two hours. After completion of the reaction, the dichloromethane layer was separated and washed with water. Then, the organic layer was dried and concentrated. The obtained residue was recrystallized from a mixture of dichloromethane and diisopropyl ether to obtain the desired product as slightly yellow transparent crystals.

reactant | thiophosgene | 7.15 mmol, 0.82 g | C(=S)(Cl)Cl | CCl2S
reactant | methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate | 6.5 mmol, 2 g | NC1=CC=C(C(=N1)C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C13H14N4O5
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(isothiocyanato)picolinate | yield: 76.6% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N=C=S)C(=O)OC | C14H12N4O5S
